* AD102 Lab 02 -- picofarad.spice
* How much silicon does one picofarad cost, and which recipe is cheapest?
*
* A capacitor is two conductors with an insulator between them. On a chip you
* do not get to choose the insulator thickness -- the process fixed that when
* it deposited the layers -- so capacitance per square micrometre is a
* CONSTANT of the technology, and the only thing you buy is area.
*
* Every capacitor here is measured the same way: hang it on a 1 V AC source at
* 1 MHz and read the current. For an ideal capacitor I = 2*pi*f*C*V, so
* C = |I| / (2*pi*f). One division, no curve fitting.
*
* Runs inside hpretl/iic-osic-tools:2026.04.   ngspice -b spice/picofarad.spice
* W and L are PLAIN MICRON NUMBERS -- never W=1u.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* ---------------------------------------------------------------- A. the
* area ladder. Five square MIM capacitors, sides 1 to 20 um. If C were
* simply (F per um^2) x area, these would be a perfect parabola through the
* origin. Check whether they are.
V1 a1 0 dc 0 ac 1
X1 a1 0 sky130_fd_pr__cap_mim_m3_1 W=1 L=1
V2 a2 0 dc 0 ac 1
X2 a2 0 sky130_fd_pr__cap_mim_m3_1 W=2 L=2
V3 a3 0 dc 0 ac 1
X3 a3 0 sky130_fd_pr__cap_mim_m3_1 W=5 L=5
V4 a4 0 dc 0 ac 1
X4 a4 0 sky130_fd_pr__cap_mim_m3_1 W=10 L=10
V5 a5 0 dc 0 ac 1
X5 a5 0 sky130_fd_pr__cap_mim_m3_1 W=20 L=20

* ---------------------------------------------------------------- B. one
* picofarad, twice.
* naive : area = 1000 fF / 2.00 fF-per-um^2 = 500 um^2  -> side sqrt(500) = 22.3607
* fixed : solve the two-term fit you extract in part A
V6 a6 0 dc 0 ac 1
X6 a6 0 sky130_fd_pr__cap_mim_m3_1 W=22.3607 L=22.3607
V7 a7 0 dc 0 ac 1
X7 a7 0 sky130_fd_pr__cap_mim_m3_1 W=22.1965 L=22.1965

* ---------------------------------------------------------------- C. three
* different ways to store charge, all in the same process.
*
* C1  MIM      -- a plate of capm metal over metal3, thin oxide between.
*                 Sits ABOVE the transistors. Linear, and that is why you
*                 pay for it.
* C2  MOS      -- the gate of an ordinary transistor, channel and bulk tied
*                 together. Gate oxide is the thinnest insulator in the whole
*                 process, so this is the densest capacitor available. It is
*                 also a transistor, with everything that implies.
* C3  VPP      -- vertical parallel plate: interdigitated metal fingers on
*                 m1-m4 using ordinary wiring layers and ordinary spacing.
*                 Needs no special mask at all.
Vn1 n1 0 dc 1.8 ac 1
Xn1 0 n1 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10
Vn2 n2 0 dc 1.8 ac 1
Xn2 0 n2 0 0 sky130_fd_pr__nfet_01v8 W=11.2699 L=11.2699
Vp1 p1 0 dc 1.8 ac 1
Xp1 0 p1 0 0 sky130_fd_pr__pfet_01v8 W=10 L=10
Vv1 v1 0 dc 0 ac 1
Xv1 v1 0 0 sky130_fd_pr__cap_vpp_11p3x11p3_m1m2m3m4_shieldl1_wafflecap

* ---------------------------------------------------------------- D. the
* MOS capacitor with the bias taken away. Same device as Xn1, gate at 0 V
* instead of 1.8 V. Nothing about the layout changed.
Vn0 n0 0 dc 0 ac 1
Xn0 0 n0 0 0 sky130_fd_pr__nfet_01v8 W=10 L=10

.control
ac lin 1 1e6 1e6
let k = 1/(2*pi*1e6)
let c_s1     = abs(i(v1))*k
let c_s2     = abs(i(v2))*k
let c_s5     = abs(i(v3))*k
let c_s10    = abs(i(v4))*k
let c_s20    = abs(i(v5))*k
let c_naive  = abs(i(v6))*k
let c_fixed  = abs(i(v7))*k
let c_nmos10 = abs(i(vn1))*k
let c_nmos11 = abs(i(vn2))*k
let c_pmos10 = abs(i(vp1))*k
let c_vpp    = abs(i(vv1))*k
let c_nmos_off = abs(i(vn0))*k
echo "--- A. MIM area ladder, square plates (farads) ---"
print c_s1 c_s2 c_s5 c_s10 c_s20
echo "--- B. one picofarad, naive vs fixed (farads) ---"
print c_naive c_fixed
echo "--- C. three technologies (farads) ---"
print c_nmos10 c_nmos11 c_pmos10 c_vpp
echo "--- D. the same MOS cap with the gate at 0 V (farads) ---"
print c_nmos_off
.endc
.end
